US04734437
A solution of 40.0 g of methyl 2-(4-benzyloxyphenyl)ethyl ketone and 160 ml of anhydrous ammonia in 300 ml of ethanol was heated at 75° C. and stirred for two hours. After cooling the reaction mixture to room temperature, 4.0 g of Raney nickel was added in one portion, and the reaction mixture then was stirred at ° C. for twelve hours under a hydrogen atmosphere at 300 psi. The reaction mixture next was filtered and the filtrate was concentrated by evaporation of the solvent under reduced pressure to provide an oil. The oil was dissolved in 120 ml of 3N hydrochloric acid, from which the product as a hydrochloride salt precipitated. The salt so formed was collected by filtration and recrystallized from methanol and toluene to provide 36.2 g of dl-1-methyl-3-(4-benzyloxyphenyl)propylaminium chloride. M.P. 195°-197.5° C.

reactant | methyl 2-(4-benzyloxyphenyl)ethyl ketone | 40.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCC(=O)C | C17H18O2
reactant | ammonia | 160 ml | N | H3N
reactant | hydrochloric acid | 3N, 120 ml | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | Raney nickel | 4.0 g | [Ni] | Ni
product | 1-methyl-3-(4-benzyloxyphenyl)propylaminium chloride | [Cl-].CC(CCC1=CC=C(C=C1)OCC1=CC=CC=C1)[NH3+] | InChI=1S/C17H21NO.ClH/c1-14(18)7-8-15-9-11-17(12-10-15)19-13-16-5-3-2-4-6-16;/h2-6,9-12,14H,7-8,13,18H2,1H3;1H
